US04046798
3,4-Dichloro-α,α,α-trifluorotoluene (862 g. 4.0 mols) is added to a stirred mixture of concentrated sulfuric acid (4400 g.) and nitric acid (3400 g.) at 35° C. The mixture is stirred 70 minutes at 95° C, and allowed to separate. The oil layer is washed once with water and twice with 5% sodium carbonate solution, dried, and fractionally distilled to give 3,4-dichloro-5-nitro-α,α,α-trifluorotoluene (188 g. 18%) b.p. 115°-118° C./15 mm, 88% pure.

reactant | 3,4-Dichloro-α,α,α-trifluorotoluene | 4.0 mols, 862 g | ClC=1C=C(C=CC1Cl)C(F)(F)F | C7H3Cl2F3
reactant | sulfuric acid | 4400 g | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 3400 g | [N+](=O)(O)[O-] | HNO3
product | 3,4-dichloro-5-nitro-α,α,α-trifluorotoluene | 188 g, 18% | ClC=1C=C(C=C(C1Cl)[N+](=O)[O-])C(F)(F)F | C7H2Cl2F3NO2
